US08729102B2
F) tert-butyl [(1S)-2-({6-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]-5-fluoropyridin-3-yl}oxy)-1-methylethyl]carbamate
Triethylamine (0.849 mL) was added to a solution of triphenylphosphine (599 mg) and hexachloroethane (451 mg) in acetonitrile (5 mL) at room temperature, and the obtained mixture was stirred at room temperature for 10 min. To the reaction mixture was further added a mixture of tert-butyl [(1S)-2-({6-[(2,4-dihydroxyphenyl)carbamoyl]-5-fluoropyridin-3-yl}oxy)-1-methylethyl]carbamate (321 mg) and acetonitrile (5 mL), and the mixture was stirred at room temperature for 2 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The combined organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate), and the obtained residue (305 mg) was mixed with (bromomethyl)cyclopropane (204 mg), potassium carbonate (209 mg) and DMF (5 mL) at room temperature. The obtained mixture was stirred at room temperature overnight. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The combined organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (101 mg).

reactant | Triethylamine | 0.849 mL | C(C)N(CC)CC | C6H15N
reactant | triphenylphosphine | 599 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | hexachloroethane | 451 mg | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
reactant | tert-butyl [(1S)-2-({6-[(2,4-dihydroxyphenyl)carbamoyl]-5-fluoropyridin-3-yl}oxy)-1-methylethyl]carbamate | 321 mg | OC1=C(C=CC(=C1)O)NC(=O)C1=C(C=C(C=N1)OC[C@H](C)NC(OC(C)(C)C)=O)F | C20H24FN3O6
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | Water | O | H2O
product | tert-butyl [(1S)-2-({6-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]-5-fluoropyridin-3-yl}oxy)-1-methylethyl]carbamate | 101 mg | C1(CC1)COC1=CC2=C(N=C(O2)C2=C(C=C(C=N2)OC[C@H](C)NC(OC(C)(C)C)=O)F)C=C1 | C24H28FN3O5
